US07897767B2
Anhydrous hydrazine (0.50 mL, 16.1 mmol) was added to a stirred suspension of N-cyclohexyl-N′-[4-(8-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl)butyl]urea (3.00 g, 5.36 mmol) in ethanol (36 mL). Over the next hour, dichloromethane (40 mL) and ethanol (20 mL) were added to prevent the reaction from solidifying. After one more hour, the solvent was removed under reduced pressure, then acetone (27 mL) and methanol (27 mL) were added. The mixture was stirred at room temperature for 2 hours, then a solid was isolated by filtration and washed with methanol. To the solid was added 1 M aqueous sodium hydroxide and the mixture was sonicated for 1 minute. The solid was isolated by filtration, washed with water, and dried under vacuum at 70° C. to provide 2.36 g of N-cyclohexyl-N′-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}urea.

reactant | hydrazine | 16.1 mmol, 0.50 mL | NN | H4N2
reactant | N-cyclohexyl-N′-[4-(8-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl)butyl]urea | 5.36 mmol, 3.00 g | C1(CCCCC1)NC(=O)NCCCCN1C(=NC=2C=3N(C(=C(C21)C)C)N=NN3)CON3C(C2=CC=CC=C2C3=O)=O | C28H33N9O4
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | ethanol | 36 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-cyclohexyl-N′-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}urea | 2.36 g | C1(CCCCC1)NC(=O)NCCCCN1C(=NC=2C=3N(C(=C(C21)C)C)N=NN3)CON=C(C)C | C23H35N9O2
